US06911458B2
N-(2-Methyl-6-oxiranylmethoxy-phenyl)-acetamide
A mixture of 3-methyl-2-acetamidophenol (0.165 g, 1 mmol), and epichlorohydrin (1.84 g, 20 mmol) was stirred at 70° C. to afford a clear solution. Triethylbenzylammonium chloride (0.15 g, 1 mmol) was then added and stirring was continued at 125° C. for 15 minutes. After cooling to room temperature 1M NaOH solution was added and the solution was extracted with dichloromethane. The organic extract was washed with water and dried. After evaporation of the dichloromethane the resulting brownish oil was purified through silica chromatography 50-70% EtOAc in heptane yielding the product as a colourless oil (0.12 g, 0.54 mmol).

reactant | 3-methyl-2-acetamidophenol | 1 mmol, 0.165 g | CC=1C(=C(C=CC1)O)NC(C)=O | C9H11NO2
reactant | epichlorohydrin | 20 mmol, 1.84 g | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | 1M | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Triethylbenzylammonium chloride | 1 mmol, 0.15 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | heptane | CCCCCCC | C7H16
product | N-(2-Methyl-6-oxiranylmethoxy-phenyl)-acetamide | CC1=C(C(=CC=C1)OCC1OC1)NC(C)=O | C12H15NO3
